US09023844B2
3-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine (150 mg, 0.51 mmol) and N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide (148 mg, 0.56 mmol, 1.1 eq) are dissolved in 1.5 mL 1,4-dioxan. To this mixture, bis(tricyclohexylphosphine)palladium(II)-dichloride (57 mg, 0.07 mmol, 0.15 eq) and 0.83 mL sodium carbonate solution (2 molar) are added. The reaction mixture is flushed with argon for 5 mins and then sealed. Next the mixture is heated for 30 min at 150° C. in the microwave (Biotage). The reaction mixture is then poured in water and extracted with dichloromethane (3×20 mL). The organic layer is dried over anhydrous magnesium sulphate, filtered and concentrated under reduced pressure. The crude material is purified by column chromatography using silica gel in heptane and ethyl acetate (1:0 to 1:1) as eluent and 0.03 g (17%) of N-{4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide are obtained as a white solid.

reactant | 3-Bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidine | 0.51 mmol, 150 mg | BrC=1C(=NN2C1N=CC=C2)C2=CC=C(C=C2)F | C12H7BrFN3
reactant | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]acetamide | 0.56 mmol, 148 mg, 1.1 eq | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(C)=O)C | C13H19BN2O3
reactant | sodium carbonate | 2 molar, 0.83 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxan | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | bis(tricyclohexylphosphine)palladium(II)-dichloride | 0.07 mmol, 57 mg, 0.15 eq | C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3.[Cl-].[Cl-].[Pd+2]
product | N-{4-[2-(4-fluorophenyl)pyrazolo[1,5-a]pyrimidin-3-yl]pyridin-2-yl}acetamide | 0.03 g, 17% | FC1=CC=C(C=C1)C1=NN2C(N=CC=C2)=C1C1=CC(=NC=C1)NC(C)=O | C19H14FN5O
